US06162808
i) N-[2-Aminothiazol-4-yl]-N-[ethoxycarbonylmethyl]glycine, ethyl ester
The subtitle compound was prepared from 2-[[1,1-dimethylethoxy]carbonylamino]4-thiazoleacetic acid (0.75 g) (Chem. Pharm. Bull. 1993, 41, 758) and diethyl iminodiacetate (0.83 g) according to the method of example 15 step (i) followed by step (ii). Yield 0.91 g.

reactant | 2-[[1,1-dimethylethoxy]carbonylamino]4-thiazoleacetic acid | 0.75 g | CC(C)(OC(=O)NC=1SC=C(N1)CC(=O)O)C | C10H14N2O4S
reactant | diethyl iminodiacetate | 0.83 g | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
product | N-[2-Aminothiazol-4-yl]-N-[ethoxycarbonylmethyl]glycine, ethyl ester | NC=1SC=C(N1)N(CC(=O)OCC)CC(=O)OCC | C11H17N3O4S
